US06407101B1
5-(4,4-dimethyl-2-oxo-1,4-Dihydro-2H-3,1-benzoxazin-6-yl)-1-prop-2-ynyl-1H-pyrrole-2-carbonitrile
5-(4,4-Dimethyl-2-oxo-1,4,dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrol-2-carbonitrile (0.74 g, 2.8 mmol) and propargylbromide (0.5 g, 4.2 mmol) were reacted, according to General Method A, to afford the title compound, m.p. 222-224° C. (0.13 g, 15%). 1H-NMR (DMSO-d6) δ1.65 (s, 6H), 3.64 (t, J=2.3 Hz, 1H), 4.85 (d, J=2.3 Hz, 2H), 6.37 (d, J=4 Hz, 1H), 7.01 (d, J=8.2 Hz, 1H), 7.11 (d, J=4 Hz, 1H), 7.43 (m, 2H), 10.45 (s, 1H), MS (APCI (−)) m/z 304 (M−H)−

reactant | 5-(4,4-Dimethyl-2-oxo-1,4,dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrol-2-carbonitrile | 2.8 mmol, 0.74 g | CC1(OC(NC2=C1C=C(C=C2)C2=CC=C(N2)C#N)=O)C | C15H13N3O2
reactant | propargylbromide | 4.2 mmol, 0.5 g | C(C#C)Br | C3H3Br
product | 5-(4,4-dimethyl-2-oxo-1,4-Dihydro-2H-3,1-benzoxazin-6-yl)-1-prop-2-ynyl-1H-pyrrole-2-carbonitrile | CC1(OC(NC2=C1C=C(C=C2)C2=CC=C(N2CC#C)C#N)=O)C | C18H15N3O2
